US05326871
In 20 ml of dry dichloromethane were dissolved 3.04 g of (10 millimoles) of optically active (+)-4-(1-hexyloxy-2,2,2-trifluoroethyl)benzoic acid, 3.28 g (10 millimoles) of 2-decyloxy-5-(p-hydroxyphenyl)pyrimidine and 0.2 g of 4-pyrrolidinopyridine. Then, 2.5 g (12 millimoles) of dicyclohexylcarbodiimide was added and the resulting mixture was stirred at room temperature for 6 hours. After the reaction, 5% aqueous solution of acetic acid was added and the whole was extracted with dichloromethane. The organic layer was washed successively with water and 7% aqueous solution of sodium hydrogen carbonate and dried on anhydrous magnesium sulfate, and then the solvent was distilled off and the residue was purified by silica gel column chromatography. Thus, 5.05 g (yield 82%) of optically active 2-decyloxy-5-(p-hydroxyphenyl)pyrimidine (+)-4-(1-hexyloxy-2,2,2-trifluoroethyl)benzoate was obtained.

reactant | 2-decyloxy-5-(p-hydroxyphenyl)pyrimidine | 10 millimoles, 3.28 g | C(CCCCCCCCC)OC1=NC=C(C=N1)C1=CC=C(C=C1)O | C20H28N2O2
reactant | 4-pyrrolidinopyridine | 0.2 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | dicyclohexylcarbodiimide | 12 millimoles, 2.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | (+)-4-(1-hexyloxy-2,2,2-trifluoroethyl)benzoic acid | C(CCCCC)OC(C(F)(F)F)C1=CC=C(C(=O)O)C=C1 | C15H19F3O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-decyloxy-5-(p-hydroxyphenyl)pyrimidine (+)-4-(1-hexyloxy-2,2,2-trifluoroethyl)benzoate | yield 82% | C(CCCCC)OC(C(F)(F)F)C1=CC=C(C(=O)O)C=C1.C(CCCCCCCCC)OC1=NC=C(C=N1)C1=CC=C(C=C1)O | InChI=1S/C20H28N2O2.C15H19F3O3/c1-2-3-4-5-6-7-8-9-14-24-20-21-15-18(16-22-20)17-10-12-19(23)13-11-17;1-2-3-4-5-10-21-13(15(16,17)18)11-6-8-12(9-7-11)14(19)20/h10-13,15-16,23H,2-9,14H2,1H3;6-9,13H,2-5,10H2,1H3,(H,19,20)
